US04691027
5-Hydroxy-2,4,6,7-tetramethyl-1,3-benzoxathiole
2.9 g of 5-acetoxy-2,4,6,7-tetramethyl-1,3-benzoxathiole, prepared as described in Example 22, were dissolved in 30 ml of methanol, 1.3 g of sodium methoxide was added to the solution, and the mixture was allowed to react at room temperature for 3 hours. At the end of this time, the reaction mixture was poured into water and the solution was neutralized by adding acetic acid. The separated product was extracted with benzene and the extract was washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated off. The crude product thus obtained was purified by silica gel column chromatography. From the fraction eluted with a 1:1 by volume mixture of hexane and benzene were obtained 2.0 g of the title compound, melting at 125°-127° C.

reactant | 5-acetoxy-2,4,6,7-tetramethyl-1,3-benzoxathiole | 2.9 g | C(C)(=O)OC=1C(=C(C2=C(SC(O2)C)C1C)C)C | C13H16O3S
reactant | sodium methoxide | 1.3 g | C[O-].[Na+]
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 30 ml | CO | CH4O
product | 5-Hydroxy-2,4,6,7-tetramethyl-1,3-benzoxathiole | 2.0 g | OC=1C(=C(C2=C(SC(O2)C)C1C)C)C | C11H14O2S
